US07700595B2
3-Benzyl-8-chloro-4-(3-{[2-chloro-3-(trifluoromethyl)benzyl]oxy}phenyl)cinnoline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol and (2-chloro-3-trifluoromethyl-phenyl)-methanol according the procedure of Example 55. MS (ES) m/z 538.7.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)O | C20H13ClN2O
reactant | (2-chloro-3-trifluoromethyl-phenyl)-methanol | ClC1=C(C=CC=C1C(F)(F)F)CO | C8H6ClF3O
product | 3-Benzyl-8-chloro-4-(3-{[2-chloro-3-(trifluoromethyl)benzyl]oxy}phenyl)cinnoline | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=C(C(=CC=C1)C(F)(F)F)Cl)Cl | C29H19Cl2F3N2O
